US05210204
According to the procedure of Example 2, 4'-[[2-butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H-imidazol-1-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid methyl ester was treated with hydrazine to give 4'-[[2-butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H imidazol-1-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid hydrazide (60%).

reactant | 4'-[[2-butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H-imidazol-1-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid methyl ester | COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO[Si](C)(C)C(C)(C)C)Cl)CCCC | C29H39ClN2O3Si
reactant | hydrazine | NN | H4N2
product | 4'-[[2-butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H imidazol-1-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid hydrazide | 60% | C(CCC)C=1N(C(=C(N1)Cl)CO[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)NN | C28H39ClN4O2Si
